Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right posterior lower leg ulcer
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ year old F with h/o peripheral arterial 
disease and vascular history of b/l CIA stents (kissing) 
(___), L iliofemoral endarterectomy w/ bovine patch 
angioplasty and L femoral to AKpop artery bypass (___), 
angioplasty of L CFA (___), repair of brachial artery 
pseudoaneurysm (___) presented to clinic w/ increasing RLE 
pain and venous appearing ulcer in posterior lower calf of about 
7 x 5 cm. There is some fibrinous exudate and rim of erythema 
around ulcer. Patient has been treated with thre courses of 
Levouquin, each of 10 day duration, last one started on 
___. Patient has algo been known to have a Right SFA 
occlusion with three vessel runoff. She was transferred from 
clinic for RLE angio with tibial/pedal access to recanalize the 
SFA (patient has kissing iliac stents making contralateral 
access difficult as well as Left common femoral stenosis). 
 
Past Medical History:
PMH: 
-HTN 
-RA 
-Graves 
-Borderline hemolytic anemia 
-Raynaud's 
-Thyroid cancer (s/p thyroidectomy) 

PSH: 
-C-section x 2 
-Thyroidecotmy 
 
Social History:
___
Family History:
She has an extensive family history of
cardiovascular disease including that in her mother and brother.
 
Physical Exam:
VS - 98.4 67 126/69 16 96% RA
Gen - NAD
CV - RRR
Pulm - non-labored breathing, no resp distress
Abd - obese, soft, nondistended, nontender
MSK & extremities/skin - R lower leg posterior ulcer with some 
yellow/white material overlying c/w fibrinous exudate and 
central erythema and granulation tissue
 
Pertinent Results:
___ 07:01AM BLOOD WBC-8.9 RBC-4.24 Hgb-13.1 Hct-41.9 
MCV-99* MCH-30.9 MCHC-31.3* RDW-13.2 RDWSD-47.5* Plt ___
___ 07:01AM BLOOD Glucose-101* UreaN-12 Creat-0.6 Na-143 
K-3.9 Cl-101 HCO3-27 AnGap-15
___ 07:01AM BLOOD Calcium-9.4 Phos-4.0 Mg-2.___ was admitted with plan for angio. She was started on 
IV antibiotics and her wound improved, and her angio was 
deferred for another time. She was discharged ___ on PO 
antibiotics with plans for elective angio.
 
Medications on Admission:
ALPRAZOLAM - alprazolam 0.5 mg tablet. one tablet(s) by mouth
once a day as needed -  (Prescribed by Other Provider)
CYCLOBENZAPRINE - cyclobenzaprine 5 mg tablet. one to two
Tablet(s) by mouth at bedtime
ETODOLAC - etodolac 400 mg tablet. 1 tablet(s) by mouth twice a
day
FENTANYL - fentanyl 25 mcg/hr transdermal patch. change every 3
days  -  (Prescribed by Other Provider)
FOLIC ACID - folic acid 1 mg tablet. 2 tablet(s) by mouth once a
day
GABAPENTIN - Dosage uncertain -  (Prescribed by Other Provider)
HYDROXYCHLOROQUINE - hydroxychloroquine 200 mg tablet. 1
Tablet(s) by mouth twice a day eye examinations necessary on
regular basis (every ___ months as directed)
LEVOFLOXACIN [LEVAQUIN] - Dosage uncertain -  (Prescribed by
Other Provider)
LEVOTHYROXINE - levothyroxine 125 mcg tablet. 2 Tablet(s) by
mouth once a day -  (Prescribed by Other Provider; Dose
adjustment - no new Rx)
LISINOPRIL - lisinopril 40 mg tablet. 1 (One) tablet(s) by mouth
once a day -  (Prescribed by Other Provider)
METHOTREXATE SODIUM - methotrexate sodium 25 mg/mL injection
solution. 1 ml sc once a week
NIFEDIPINE - nifedipine ER 30 mg tablet,extended release. one
tablet(s) by mouth once a day -  (Prescribed by Other Provider)
OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. one
capsule(s) by mouth twice a day -  (Prescribed by Other 
Provider;
Dose adjustment - no new Rx)
OXYCODONE - oxycodone 5 mg tablet. ___ tablet(s) by mouth every
four (4) hours as needed for severe pain
SIMVASTATIN - simvastatin 20 mg tablet. 1 tablet(s) by mouth 
once
a day
TRAMADOL - tramadol 50 mg tablet. 1 tablet(s) by mouth three
times a day as needed -  (Prescribed by Other Provider)
 
Medications - OTC
ASPIRIN - aspirin 81 mg chewable tablet. one tablet(s) by mouth
once a day -  (Prescribed by Other Provider)
CALCIUM CARBONATE - calcium carbonate 600 mg calcium (1,500 mg)
tablet. 1 Tablet(s) by mouth twice a day -  (OTC)
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
5,000
unit capsule. 1 capsule(s) by mouth once a day By MD -  (OTC;
Dose adjustment - no new Rx)
CYANOCOBALAMIN (VITAMIN B-12) [B-12 DOTS] - Dosage uncertain - 
(Prescribed by Other Provider)
FOLIC ACID - Dosage uncertain -  (Prescribed by Other Provider)
IRON - Dosage uncertain -  (Prescribed by Other Provider)
SYRINGE WITH NEEDLE, SAFETY [BD ___ DETACHABLE NEEDL] - 
BD
___ Detachable Needle 3 mL 25 gauge x ___ syringe. Use
with mtx once weekly
--------------- --------------- --------------- ---------------

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth two times a day Disp #*20 Tablet Refills:*0 
2.  ALPRAZolam 0.5 mg PO QHS:PRN anxiety  
3.  Aspirin 81 mg PO DAILY  
4.  Calcium Carbonate 1500 mg PO BID  
5.  Cyclobenzaprine 5 mg PO QHS  
6.  etodolac 400 mg oral BID  
7.  Fentanyl Patch 25 mcg/h TD Q72H  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Gabapentin 100 mg PO TID  
10.  Hydroxychloroquine Sulfate 200 mg PO BID  
11.  Levothyroxine Sodium 250 mcg PO DAILY  
12.  Lisinopril 40 mg PO DAILY  
13.  NIFEdipine (Extended Release) 30 mg PO DAILY  
14.  Omeprazole 20 mg PO DAILY  
15.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
16.  Simvastatin 20 mg PO QPM  
17.  TraMADol 50 mg PO TID:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
18.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right posterior lower leg ulcer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted and treated with IV antibiotics and are now 
ready for discharge. Please continue to take all your home 
medications in addition to augmentin for ***. We will call you 
after your daughter's wedding to schedule your follow up 
appointments.
 
Followup Instructions:
___